US07592358B2
23.1a. 3-(4-bromo-2-methylphenyl)propionaldehyde
A mixture of 1.00 g (3.39 mmol) of 4-bromo-1-iodo-2-methylbenzene, 0.58 g (10.00 mmol) of allyl alcohol, 0.69 g (8.20 mmol) of sodium bicarbonate, 0.92 g (3.30 mmol) of tetrabutylammonium chloride, and 22 mg (0.10 mmol) of palladium (II) acetate in 5 mL of DMF were stirred for 16 hours at 45° C. under argon. The reaction mixture was diluted with EtOAc, and the organic phase was washed with water, dried over magnesium sulfate, and evaporated down in vacuo. The residue was purified by column chromatography (silica gel, PE/EtOAc 4:1). Yield: 0.60 (78% of theoretical); C10H11BrO (M=227.098); calc.: molpeak (M+H)+: 226/228 (Br); found: molpeak (M+H)+: 226/228 (Br); Rf value: 0.45 (silica gel, PE/EtOAc 4:1).

reactant | 4-bromo-1-iodo-2-methylbenzene | 3.39 mmol, 1.00 g | BrC1=CC(=C(C=C1)I)C | C7H6BrI
reactant | allyl alcohol | 10.00 mmol, 0.58 g | C(C=C)O | C3H6O
reactant | sodium bicarbonate | 8.20 mmol, 0.69 g | C([O-])(O)=O.[Na+]
catalyst | tetrabutylammonium chloride | 3.30 mmol, 0.92 g | [Cl-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | palladium (II) acetate | 0.10 mmol, 22 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 3-(4-bromo-2-methylphenyl)propionaldehyde | BrC1=CC(=C(C=C1)CCC=O)C | C10H11BrO
